US04939262
3-Carbethoxy-6-ethyl-4-hydroxy-1H-2-pyridone
113.6 g (0.88 mol) of methyl 3-amino-2-pentenoate and 128 g (0.8 mol) of diethyl malonate are added to a solution of 259.2 g (0.8 mol) of 21% strength sodium methoxide solution in methanol and 130 g of ethanol. After addition of 800 ml of 1,2-dichlorobenzene, a mixture of methanol and ethanol is removed by distillation in the course of one hour and the remaining suspension is heated to 160° C. for two hours. After cooling, 600 ml of water are added, and the organic phase is separated off, extracted using water and then discarded. The combined aqueous phases are washed with ether, and the aqueous phase is separated off, acidified using hydrochloric acid and filtered off with suction.

reactant | methyl 3-amino-2-pentenoate | 0.88 mol, 113.6 g | NC(=CC(=O)OC)CC | C6H11NO2
reactant | diethyl malonate | 0.8 mol, 128 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | 1,2-dichlorobenzene | 800 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | methanol | CO | CH4O
solvent | ethanol | 130 g | C(C)O | C2H6O
product | 3-Carbethoxy-6-ethyl-4-hydroxy-1H-2-pyridone | C(=O)(OCC)C=1C(NC(=CC1O)CC)=O | C10H13NO4
